US07183283B2
C) 4-chloro-5-{3-[4-(6-fluoro-1,2-benzisoxazole-3-yl)-piperidine-1-yl]-propylamino}-2-methyl-2H-pyridazine-3-one
2.4 g (10 millimoles) of 4-chloro-5-(2-chloropropylamino)-2-methyl-2H-pyridazine-3-one, 40 ml of acetonitrile, 2.46 g (11 millimoles) of 6-fluoro-3-piperidine-4-yl-1,2-benzisoxazole, 2.8 g of potassium carbonate and 0.18 g potassium iodide are admixed. The reaction mixture is heated to boiling under stirring for 24 hours, cooled to room temperature and filtered. The filtered product is suspended in 100 ml of water under stirring and refiltered. The crude product is recrystallized from acetonitrile. Thus 2.4 g of the desired compound are obtained. Yield 57.3%. Mp.: 200–202° C.

reactant | 4-chloro-5-(2-chloropropylamino)-2-methyl-2H-pyridazine-3-one | 10 millimoles, 2.4 g | ClC=1C(N(N=CC1NCC(C)Cl)C)=O | C8H11Cl2N3O
reactant | 6-fluoro-3-piperidine-4-yl-1,2-benzisoxazole | 11 millimoles, 2.46 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.18 g | [I-].[K+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4-chloro-5-{3-[4-(6-fluoro-1,2-benzisoxazole-3-yl)-piperidine-1-yl]-propylamino}-2-methyl-2H-pyridazine-3-one | 2.4 g, Yield 57.3% | ClC=1C(N(N=CC1NCCCN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F)C)=O | C20H23ClFN5O2
